US05744612
Into the same device as used in Example 1 were placed 1.19 g (0.010 mole) of paracyanophenol, 1.95 g (0.030 mole) of sodium azide, 4.13 g (0.030 mole) of triethylamine hydrochloride and 12 ml of toluene. The mixture wasreacted for 8 hours in the same manner as in Example 1, giving 1.34 g (0.0083 mole) of 5-(4-hydroxyphenyl)-1H-tetrazole (yield 82.7% based on paracyanophenol).

reactant | paracyanophenol | 0.010 mole, 1.19 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | sodium azide | 0.030 mole, 1.95 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.030 mole, 4.13 g | Cl.C(C)N(CC)CC
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-hydroxyphenyl)-1H-tetrazole | 0.0083 mole, 1.34 g, yield 82.7% | OC1=CC=C(C=C1)C1=NN=NN1 | C7H6N4O
